US06407096B1
4-bromo-2-nitro-6-methoxyphenol
Trifluoroacetic anhydride (3.50 ml) was cooled to −78° C. 61% nitric acid (1.85 ml) was slowly added dropwise at −78° C., and the resultant mixture was stirred at 0° C. for 2.5 hours. The above nitrating agent was added to a solution of 4-bromoguaiacol (5.00 g) in ethyl acetate (50 ml) and the mixture was stirred at 0° C. for 1.5 hours. Saturated brine was added to the reaction solution, and an organic layer was then separated. The organic layer was washed with water and saturated brine, dried over magnesium sulfate, concentrated, and then allowed to cool to form crystals. After filtration, the crystal was washed with a small amount of n-hexane, and then dried under reduced pressure to obtain the object compound (4.02 g, yield 66%).

reactant | Trifluoroacetic anhydride | 3.50 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | nitric acid | 1.85 ml | [N+](=O)(O)[O-] | HNO3
reactant | 4-bromoguaiacol | 5.00 g | BrC=1C=C(C(=CC1)OC)O | C7H7BrO2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | brine | [Cl-].[Na+].O
product | 4-bromo-2-nitro-6-methoxyphenol | 4.02 g, yield 66% | BrC1=CC(=C(C(=C1)OC)O)[N+](=O)[O-] | C7H6BrNO4
